US06806026B2
Synthesis of 2-methacryloxy-6-hydroxymethylnaphthalene (XII)
To a 3-necked, 500-mL round bottomed flask equipped with a digital thermometer, 50-mL constant-pressure addition funnel with a nitrogen inlet and a magnetic stir bar was added 25 g (0.14 mol) of 6-hydroxymethyl-2-naphthol, 200 mL of dichloromethane and 14.5 g (0.14 mol) of triethylamine. The addition funnel was charged with a solution of 14.9 g (0.15 mol) of methacryloyl chloride in 30 mL of dichloromethane. The flask was cooled to 5° C. and the acid chloride added slowly dropwise while maintaining a temperature of less than 10° C. The reaction mixture was stirred at room temperature overnight after which it was washed with water and brine, dried over MgSO4, evaporated and the residue chromatographed on silica gel with 35% ethyl acetate in hexane. The fractions containing the pure product were combined and evaporated to yield 22 g (65%) of the title compound as an off-white solid. Approximately 8 g of starting material can be recovered from the column by increasing the percentage of ethyl acetate in the mobile phase.

reactant | 6-hydroxymethyl-2-naphthol | 0.14 mol, 25 g | OCC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | triethylamine | 0.14 mol, 14.5 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.15 mol, 14.9 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-methacryloxy-6-hydroxymethylnaphthalene | 22 g, 65% | C(C(=C)C)(=O)OC1=CC2=CC=C(C=C2C=C1)CO | C15H14O3
